US05532248
To a stirred solution of tris(3-methoxyphenyl)bismuthine (200 mg, 0.377 mmol) in CH2Cl2 (3 mL) was added bis(trifluoroacetoxy)iodobenzene (162 mg, 0.377 mmol). The mixture was stirred 5 minutes, then passed through a silica gel plug and eluted with EtOAc. The eluant was concentrated in vacuo. The residue was dissolved in CH2Cl2 (4 mL) in a 50 mL round bottom flask equipped with a magnetic stir bar. To this stirred mixture was added 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (112 mg 0.141 mmol) and Cu(OAc)2 (10 mg, 0.055 mmol). The flask was capped and the mixture stirred 48 hours. The reaction was quenched by addition of saturated aqueous NaHCO3 and extracted 4× with CH2Cl2. The organic extracts were combined and dried over anhydrous Na2SO4. The mixture was filtered and concentrated in vacuo. The products were isolated by radial chromatography on silica gel (2 mm plate eluted with 3:1 hexanes/acetone) and then by preparative TLC on silica gel (eluted with 2:1 hexanes/acetone) to afford 78.4 mg of 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(3'"-methoxyphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone (Rf =0.40). (1H NMR and mass spectral analysis were consistent with the desired structure).

reactant | tris(3-methoxyphenyl)bismuthine | 0.377 mmol, 200 mg | COC=1C=C(C=CC1)[Bi](C1=CC(=CC=C1)OC)C1=CC(=CC=C1)OC
reactant | bis(trifluoroacetoxy)iodobenzene | 0.377 mmol, 162 mg | FC(C(=O)OC=1C(=C(C=CC1)I)OC(C(F)(F)F)=O)(F)F | C10H3F6IO4
reactant | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-hydroxy-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 0.141 mmol, 112 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)O)OC)C)C)O)=O | C43H69NO12
solvent | CH2Cl2 | 3 mL | C(Cl)Cl | CH2Cl2
catalyst | Cu(OAc)2 | 0.055 mmol, 10 mg | CC(=O)[O-].CC(=O)[O-].[Cu+2]
product | 17-ethyl-1,14-dihydroxy-12-[2'-(4"-(3'"-methoxyphenyloxy)-3"-methoxycyclohexyl)-1'-methylvinyl]-23,25-dimethoxy-13,19,21,27-tetramethyl-11,28-dioxa-4-azatricyclo[22.3.1.04,9 ]octacos-18-ene-2,3,10,16-tetraone | 78.4 mg | C(C)C1C(CC(C(C(OC(C2CCCCN2C(C(C2(C(CC(C(C(CC(CC(=C1)C)C)OC)O2)OC)C)O)=O)=O)=O)C(=CC2CC(C(CC2)OC2=CC(=CC=C2)OC)OC)C)C)O)=O | C50H75NO13
